US04385058
2-Chloro-4-diethylcarbamoylpyridine is reacted with 3-aminopropanol and sodium hydride to give 3-(4-diethylcarbamoyl-2-pyridyloxy)propylamine, which is reduced with lithium aluminium hydride in tetrahydrofuran to give 3-(4-diethylaminomethyl-2-pyridyloxy)propylamine; this product is heated under reflux in pyridine with 2-nitroamino-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone to give 2-[3-(4-diethylaminomethyl-2-pyridyloxy)propylamino]-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone.

reactant | 2-Chloro-4-diethylcarbamoylpyridine | ClC1=NC=CC(=C1)C(N(CC)CC)=O | C10H13ClN2O
reactant | 3-aminopropanol | NCCCO | C3H9NO
reactant | sodium hydride | [H-].[Na+]
product | 3-(4-diethylcarbamoyl-2-pyridyloxy)propylamine | C(C)N(C(=O)C1=CC(=NC=C1)OCCCN)CC | C13H21N3O2
